US05773476
8-methyl 4 chloro quinazoline
0.45 g of 4-chloro 6-methyl quinazolone and 0.405 g, of m-trifluoromethylaniline in 20 ml ethanol were refluxed 1 hour. Treatment with aqueous Na2CO3 and extraction with CH2Cl2 gave 0.2 g of P15 as a white solid, mp-215° C., as the free base. NMR CDCl3 δ 8.78(1H,S), 8.06(2H,m), 7.86(1H,d,J=7.6 Hz), 7.65(2H,m), 7.54(1H,t,J=8.0 Hz), 7.42(1H,m), 2.58(3H,S).

reactant | 4-chloro 6-methyl quinazolone | 0.45 g | ClC1=NC(NC2=CC=C(C=C12)C)=O | C9H7ClN2O
reactant | m-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-methyl 4 chloro quinazoline | CC=1C=CC=C2C(=NC=NC12)Cl | C9H7ClN2
